simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=2n width=1n rise=50p fall=50p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 80n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.10 17.9n 0.10 18n 0.80 43.9n 0.80 44n 0.25 65.9n 0.25 66n 0.65 80n 0.65]

XDUT (clk rst vin out metric) ldo_regulator_macro_model

tran tran stop=80n maxstep=0.5n
save clk rst vin out metric
